US07820675B2
tert-Butyl 3-methylenepyrrolidine-1-carboxylate*
The title compound was prepared according to the procedure of Intermediate 71 starting from tert-butyl 3-oxopyrrolidine-1-carboxylate (0.8 g, 4.3 mmol), triphenylphosphonium bromide (2.31 g, 6.5 mmol) and n-BuLi (1.8 M; 2.4 mL, 6.5 mmol). Yield: 0.23 g (29%) after purification by flash chromatography with DCM as eluent. HPLC purity 99%, RT=2.28 min (System A; 10-97% MeCN over 3 min); 99%, RT=2.21 min (System B; 10-97% MeCN over 3 min). 1H NMR (400 MHz, CDCl3) δ ppm 1.23-1.40 (m, 9H) 2.42 (t, J=6.78 Hz, 2H) 3.31 (t, J=7.40 Hz, 2H) 3.71-3.85 (m, 2H) 4.74-4.91 (m, 2H). MS (ESI+) for C10H17NO2 m/z 128 (M-C4H8)+. *Previously reported in Tetrahedron 1997, 53, 539-556.

reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 4.3 mmol, 0.8 g | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | triphenylphosphonium bromide | 6.5 mmol, 2.31 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 6.5 mmol, 1.8 M, 2.4 mL | [Li]CCCC
product | tert-Butyl 3-methylenepyrrolidine-1-carboxylate | C=C1CN(CC1)C(=O)OC(C)(C)C | C10H17NO2
